US04489073
A solution of sodium (0.45 g.) in ethanol (30 ml.) was added to a stirred solution of acetoxymethyl 2-benzo[b]furyl ketone ethoxycarbonylhydrazone (5.48 g.) in ethanol (30 ml.) and the mixture was stirred at laboratory temperature for 2 days. Further sodium (0.45 g.) in ethanol (30 ml.) was added and the mixture was stirred at laboratory temperature for a further 30 hours, diluted with water (300 ml.), adjusted to pH 5 with acetic acid and extracted with 100 ml. and then 50 ml. of ethyl acetate. The combined extracts were washed with saturated aqueous sodium chloride solution, dried and evaporated to dryness and the residue was purified by chromatography on a silica gel column (Merck 7734; 400 g.) using initially a 3:2 v/v mixture of petroleum ether (b.p. 60°-80° C.) and ethyl acetate as eluant. 7500 ml. of this eluant were used, the eluate being discarded, and elution was continued with ethyl acetate (1000 ml.). The eluate was evaporated to dryness under reduced pressure and the residue was stirred with a mixture of methanol and diethyl ether. The mixture was filtered and the solid residue was purified by chromatography on a silica gel column (Merck 9385; column size 25 cm. long and 20 mm. diameter) using a 1:1 v/v mixture of petroleum ether (b.p. 60°-80° C.) and ethyl acetate as eluant. The first 40 ml. of eluate were discarded and the next 90 ml. of eluate were evaporated to dryness under reduced pressure. The residue was stirred with a mixture of diethyl ether and petroleum ether (b.p. 60°-80° C.) and the mixture was filtered. There was thus obtained as solid product 5-(2-benzo[b]furyl)-3H,6H-1,3,4-oxadiazin-2-one, m.p. 209°-211° C.

reactant | sodium | 0.45 g | [Na] | Na
reactant | acetoxymethyl 2-benzo[b]furyl ketone ethoxycarbonylhydrazone | 5.48 g | C(C)OC(=O)NN=C(COC(C)=O)C1=CC2=C(O1)C=CC=C2 | C15H16N2O5
reactant | sodium | 0.45 g | [Na] | Na
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | water | 300 ml | O | H2O
product | 5-(2-benzo[b]furyl)-3H,6H-1,3,4-oxadiazin-2-one | O1C2=C(C=C1C1=NNC(OC1)=O)C=CC=C2 | C11H8N2O3
